US06720336B2
To a slurry of 4-[1-Benzyl-4-(3-methoxy-phenyl)-piperidin-4-yl]-phenol (22.3 g, 59.8 mmol) in CH2Cl2 (200 mL) at 0° C. was added pyridine (9.26 mL, 89.7 mmol) followed by dropwise addition of triflic anhydride (15.1 mL, 89.7 mmol) over 10 minutes. The reaction mixture was stirred at 0° C. for 1 hour and at room temperature for 2 hour. The solution was then cooled to 0° C. and 40 mL of cold saturated aqueous NaHCO3 were added. The organic layer was separated and the aqueous layer was washed with CH2Cl2 (3×50 mL). The combined organic layers were dried (MgSO4) and concentrated. The crude residue was purified by flash chromatography with hexanes/EtOAc (3:1) to afford 22.1 g (75% yield) of trifluoro-methanesulfonic acid 4-[1-benzyl-4-(3-methoxy-phenyl)-piperidin-4-yl]-phenyl ester. 1HNMR (400 MHz, CDCl3) δ 7.32-7.20 (comp, 8H), 7.14 (d, 2H), 6.84 (d, 1H), 6.81 (s, 1H), 6.72 (dd, 1H), 3.77 (s, 3H), 3.41 (s, 2H), 2.55-2.38 (comp, 8H); MS (M+1) 505.9.

reactant | 4-[1-Benzyl-4-(3-methoxy-phenyl)-piperidin-4-yl]-phenol | 59.8 mmol, 22.3 g | C(C1=CC=CC=C1)N1CCC(CC1)(C1=CC(=CC=C1)OC)C1=CC=C(C=C1)O | C25H27NO2
reactant | pyridine | 89.7 mmol, 9.26 mL | N1=CC=CC=C1 | C5H5N
reactant | triflic anhydride | 89.7 mmol, 15.1 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | NaHCO3 | 40 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | trifluoro-methanesulfonic acid 4-[1-benzyl-4-(3-methoxy-phenyl)-piperidin-4-yl]-phenyl ester | 22.1 g, 75% yield | C(C1=CC=CC=C1)N1CCC(CC1)(C1=CC(=CC=C1)OC)C1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F | C26H26F3NO4S
